US05643950
3,3,3-Triphenylpropyl 2-(4-hydroxyphenyl)acetate.
To triphenylpropanol (3.98 mmol), 4-hydroxyphenylacetic acid (3.98 mmol), and triphenylphosphine (4.39 mmol) in dry THF (20 mL) at 0° C. under a nitrogen atmosphere, was added DEAD (4.39 mmol) in dry THF (20 mL) over 15 minutes. The reaction was stirred at room temperature for 16 h and then the THF was evaporated. The residue was chromatographed on silica gel using 15-30% EtOAc/hexanes. White solid, mp=136°-138° C. (ether), 34% yield. 1H NMR δ 7.15-7.27 (m, 15H), 7.10 (d, J=8.5 Hz, 2H), 6.77 (d, J=8.5 Hz, 2H), 4.90 (s, 1H), 3.90 (t, J=7.9 Hz, 2H), 3.47 (s, 2H), 2.93 (t, J=7.9 Hz, 2H). Anal. calcd. for C29H26O3 : C, 82.44; H, 6.20. Found: C, 82.29; H, 6.24.

reactant | triphenylpropanol | 3.98 mmol | C1(=CC=CC=C1)C(CCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H20O
reactant | 4-hydroxyphenylacetic acid | 3.98 mmol | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | triphenylphosphine | 4.39 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 4.39 mmol | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3,3,3-Triphenylpropyl 2-(4-hydroxyphenyl)acetate | 34% yield | OC1=CC=C(C=C1)CC(=O)OCCC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H26O3
